Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
fluoxetine
 
Attending: ___.
 
Chief Complaint:
elevated labs
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ speaking woman with HTN/DM and CKD with baseline 
creatinine 2.5 referred by PCP for new ___ of 3.5 and flank 
pain.  
ED History obtained from daughter: Patient recently diagnosed 
with UTI but did not complete antibiotic therapy. Has been 
having poor PO intake. Recently also had fall on lower back. 
CVAT+ on exam.  
In the ED, initial vitals were: 97.0 76 145/86 18 100% RA  
Per ED report, pt endorsed R flank/back pain for 1 month, none 
at present. Dx UTI ___ weeks ago, started on abx but self-d/c 
after 2 days. Denies urinary sxs at that time or at present.  

 
Past Medical History:
DM  
HTN  
CKD
Gout  

 
Social History:
___
Family History:
No known family hx of kidney disease or kidney stones. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs: 98.3 PO 132 / 83 66 18 94 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM: 
Vitals: 97.3 113/65 65 18 96%RA 
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - R eye weeping, sclerae anicteric, MMM  
HEART - RRR, nl S1-S2, no MRG  
LUNGS - breathing comfortably, CTAB  
ABDOMEN - BS+, soft/NT/ND, no masses or HSM  
GU: No foley 
BACK: No CVA tenderness 
EXTREMITIES - WWP, no c/c, trace peripheral edema to mid shin, 
2+ peripheral pulses  
NEURO - awake, A&Ox3
 
Pertinent Results:
ADMISSION LABS 
___ 04:10PM BLOOD WBC-8.3 RBC-3.86* Hgb-12.2 Hct-37.5 
MCV-97 MCH-31.6 MCHC-32.5 RDW-13.1 RDWSD-46.7* Plt ___
___ 04:10PM BLOOD Neuts-75.1* Lymphs-16.1* Monos-6.0 
Eos-1.8 Baso-0.4 Im ___ AbsNeut-6.22*# AbsLymp-1.33 
AbsMono-0.50 AbsEos-0.15 AbsBaso-0.03
___ 04:10PM BLOOD Plt ___
___ 04:10PM BLOOD Glucose-151* UreaN-69* Creat-3.5* Na-135 
K-5.3* Cl-101 HCO3-19* AnGap-20
___ 04:16PM BLOOD K-4.7 Cl-106 calHCO3-21

DISCHARGE LABS
___ 05:42AM BLOOD WBC-6.7 RBC-3.30* Hgb-10.4* Hct-32.2* 
MCV-98 MCH-31.5 MCHC-32.3 RDW-13.2 RDWSD-47.6* Plt ___
___ 05:42AM BLOOD Plt ___
___ 05:42AM BLOOD Glucose-102* UreaN-66* Creat-3.3* Na-140 
K-4.2 Cl-107 HCO3-18* AnGap-19

IMAGING 
___ RENAL US 
IMPRESSION:  
1.  Limited assessment of the kidneys.  Echogenic appearance of 
the renal 
cortices bilaterally reflective of chronic medical renal 
disease. 
2.  No hydronephrosis or renal stones. 

 
Brief Hospital Course:
___ ___ speaking woman with HTN, DM, CKD from 
hypertensive nephropathy with baseline creatinine 2.5 referred 
by PCP for new ___ of 3.5 and flank pain found to have no 
leukocytosis and renal u/s suggestive of chronic medical renal 
disease w/o acute hydronephrosis or renal stones.   
 
#AOCKD: Patient referred by PCP for elevated ___ to 3.7. Felt to 
be prerenal in the setting of recent diarrhea and continued 
diuretic use. Pt was given gentle IVF with improvement in Cr to 
3.3.  Lasix and irbesartan were held at discharge with plan to 
consider restarting after resolution of ___.

#HTN: Home irbesartan and lasix were held as above.

#NIDDM: Diet controlled at home. On HIIS, did not need insulin. 

#Insomnia: Held home At___. Started trazadone PRN.    . 

#Gout: Continued home febuxostat 
 
TRANSITIONAL ISSUES: 
1. Patient needs a creatinine/BUN check one week post discharge 
at PCP ___. 
2. Please continue to hold home Irbesartan and furosemide in 
setting of recent ___. Restart at PCP's discretion if creatinine 
back to baseline.  

CODE: Full (presumed)  
CONTACT: ___ (daughter in law) ___  

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 100 mg PO DAILY 
2. LORazepam 1 mg PO QHS:PRN insomnia 
3. irbesartan 150 mg oral DAILY 
4. NIFEdipine CR 30 mg PO DAILY 
5. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
6. Furosemide 20 mg PO DAILY 
7. Febuxostat 20 mg PO DAILY 

 
Discharge Medications:
1.  Atenolol 100 mg PO DAILY  
2.  Febuxostat 20 mg PO DAILY  
3.  LORazepam 1 mg PO QHS:PRN insomnia  
4.  NexIUM (esomeprazole magnesium) 40 mg oral DAILY  
5.  NIFEdipine CR 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AOCKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital because your kidneys weren't 
working as well as they were before. This is probably because 
you were dehydrated. We gave you fluid, and your kidney function 
improved.

You should STOP taking irbesartan and furosemide until your 
primary care doctor tells you to start taking them again.

It was a pleasure to help care for you during this 
hospitalization, and we wish you all the best in the future.

Sincerely, 
Your ___ Team 

 
Followup Instructions:
___